US05437815
A solution of 16.5 g of 4-propylphenylboric acid as dissolved in 130 ml of ethanol was dropwise added to a mixture comprising 30 g of 1-bromo-2-fluoro-4-iodobenzene, 1.6 g of tetrakistriphenylphosphine palladium(O), 186 ml of benzene and 140 ml of 2M aqueous sodium carbonate solution, in nitrogen atmosphere at room temperature. The reaction solution was then refluxed for 5 hours, cooled to room temperature, extracted with chloroform and washed three times with water, and chloroform was removed by distillation. The residue formed was distilled under reduced pressure (b.p. 155° to 170° C./3 mmHg) to obtain 11.7 g of 4-bromo-3-fluoro-4'-propylbiphenyl.

reactant | 4-propylphenylboric acid | 16.5 g | C(CC)C1=CC=C(C=C1)OB(O)O | C9H13BO3
reactant | 1-bromo-2-fluoro-4-iodobenzene | 30 g | BrC1=C(C=C(C=C1)I)F | C6H3BrFI
reactant | benzene | 186 ml | C1=CC=CC=C1 | C6H6
reactant | sodium carbonate | 2M, 140 ml | C([O-])([O-])=O.[Na+].[Na+]
solvent | ethanol | 130 ml | C(C)O | C2H6O
product | 4-bromo-3-fluoro-4'-propylbiphenyl | 11.7 g | BrC1=C(C=C(C=C1)C1=CC=C(C=C1)CCC)F | C15H14BrF
